US08497281B2
(1H-Benzoimidazol-5-yl)-(cis-10-methoxy-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and cis-10-methoxy-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous that described in Example 1. Yield: 55% of theory; LC (method 1): tR=2.67 min; Mass spectrum (ESI+): m/z=362 [M+H]+.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-10-methoxy-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | COC1=CC=CC2=C1[C@H]1CCCN[C@H]1CC2 | C14H19NO
product | (1H-Benzoimidazol-5-yl)-(cis-10-methoxy-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl)-methanone | Yield: 55% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=CC=C3OC | C22H23N3O2
